### PR TITLE
[Merged by Bors] - feat: local diffeomorphisms

### PR DESCRIPTION
**Pull request by grunweg**
Define local diffeomorphisms between smooth manifolds. As an auxiliary definition, we add `PartialDiffeomorph`, the analogue of `PartialHomeomorph` for diffeomorphisms.

In future PRs, we will
- show that local diffeomorphisms have invertible differential
- show the converse, using the inverse function theorem: if the differential of $f$ at $x$ is invertible, $f$ is a local diffeomorphism at $x$
----------------

### Alternative designs considered
A. a local diffeomorphism $M\to N$ is a diffeomorphism between open sets $U\subset M$ and $V\subset N$ containing $x$ and $f(x)$, respectively.

mathlib already has diffeomorphisms; this definition would be cumbersome to use, as proving e.g. openness of the image or "a diffeomorphism is a local diffeomorphism" required dealing with subtypes U, V instead of M and N.

B. use the junk value pattern, but bundle a choice of inverse (i.e., replace IsLocalDiffeomorphAt with the current LocalDiffeomorphAux together with a proof that $x\in source$
This makes the implication "if $f$ is a local diffeomorphism at every point $x$, it's a local diffeomorphism" at least tedious to state and prove. With the current design, that's by definition.

### CODE REVIEW

**Comment by fpvandoorn** [comment]
To comment on your naming remark: I want to rename `LocalHomeomorph` to `PartialHomeomorph`.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 1]
```diff
@@ -0,0 +1,159 @@
...
+As this declaration is meant for internal use only, we keep it simple. -/
+end LocalDiffeomorphAux
+end LocalDiffeomorphAux
+
+variable {M N}
+
+/-- `f : M → N` is called a **`C^n` local diffeomorphism at *x*** iff there exist
+  open sets `U ∋ x` and `V ∋ f x` and a diffeomorphism `Φ : U → V` such that `f = Φ` on `U`. -/
+def IsLocalDiffeomorphAt (f : M → N) (x : M) : Prop :=
+  ∃ Φ : LocalDiffeomorphAux I J M N n, x ∈ Φ.source ∧ EqOn f Φ Φ.source
```
Comment (fpvandoorn) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:122]: This doesn't seem like the most convenient definition of `IsLocalDiffeomorphAt`. For vector spaces we don't really give a definition, but in the statement of the inverse function theorem [HasStrictFDerivAt.to_localInverse](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/Inverse.html#HasStrictFDerivAt.to_localInverse) we use [HasStrictFDerivAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/FDeriv/Basic.html#HasStrictFDerivAt). Would it make sense to lift that definition to manifolds?

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 2]
```diff
@@ -0,0 +1,159 @@
...
+protected theorem mdifferentiableAt {x : M} (hx : x ∈ Φ.source) : MDifferentiableAt I J Φ x :=
+  (Φ.mdifferentiableOn hn x hx).mdifferentiableAt (Φ.open_source.mem_nhds hx)
+
+-- define symm just to make this easier to write?
+protected theorem mdifferentiableAt_symm {x : M} (hx : x ∈ Φ.source) :
+    MDifferentiableAt J I Φ.invFun (Φ x) :=
+  (Φ.mdifferentiableOn_symm hn (Φ x) (Φ.map_source hx)).mdifferentiableAt
+  (Φ.open_target.mem_nhds (Φ.map_source hx))
+
+/- We could add lots of additional API (following `Diffeomorph` and `LocalHomeomorph*), such as
```
Comment (fpvandoorn) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:110]: It would be nice to at least define `symm`, and state `Φ.invFun` as `Φ.symm` (with a coercion) everywhere. That's how we do it for all other equivalence-like structures.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 3]
```diff
@@ -0,0 +1,159 @@
...
+    IsLocalDiffeomorph I J n f ↔ ∀ x : M, IsLocalDiffeomorphAt I J n f x := by rfl
+
+variable {n}
+
+/-- A `C^n` diffeomorphism is a local diffeomorphism. -/
+lemma Diffeomorph.isLocalDiffeomorph (Φ : M ≃ₘ^n⟮I, J⟯ N) : IsLocalDiffeomorph I J n Φ :=
+  fun _ ↦ ⟨Φ.toLocalDiffeomorphAux, by trivial, eqOn_refl Φ _⟩
+
+/-- The image of a local diffeomorphism is open. -/
+def LocalDiffeomorph.image {f : M → N} (hf : IsLocalDiffeomorph I J n f) : Opens N := by
```
Comment (fpvandoorn) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:139]: Please also have `isOpen (range f)` as a separate lemma.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 4]
```diff
@@ -0,0 +1,159 @@
...
+  {G : Type*} [TopologicalSpace G]
+  (I : ModelWithCorners 𝕜 E H) (J : ModelWithCorners 𝕜 F G)
+  (M : Type*) [TopologicalSpace M] [ChartedSpace H M]
+  (N : Type*) [TopologicalSpace N] [ChartedSpace G N] (n : ℕ∞)
+
+section LocalDiffeomorphAux
+/-- A "diffeomorphism on" `s` is a function `f : M → N` such that `f` restricts to a diffeomorphism
+`s → t` between open subsets of `M` and `N`, respectively.
+This is an auxiliary definition and should not be used outside of this file. -/
+structure LocalDiffeomorphAux extends LocalHomeomorph M N where
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:68]: I'm not too happy with the current name. I'd be fine with the name `PartialDiffeomorph` (with a todo to rename the others).

[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:68]: PartialDiffeomorph and PartialHomeomorph sound much nicer!

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:139]: Makes sense - it's basically just extracting that proof. Added.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:68]: > If you extend `LocalHomeomorph`, you get the fields `continuousOn_toFun` and `continuousOn_invFun`, which follow from the new fields. Maybe only extend `LocalEquiv`?

Sure, that works. It's slightly more cumbersome as I have to define the fields open_source and open_target, but only very slightly so. 

In general, is it important to not re-define data this way? (I can *imagine* it is, but don't *know* for sure.)

**Review by fpvandoorn — COMMENTED** [review]
Two of my comments apparently were not submitted. -- EDIT: I think they were, my browser incorrectly showed them as "pending".

**Comment by grunweg** [comment]
> To comment on your naming remark: I want to rename `LocalHomeomorph` to `PartialHomeomorph`.

By the way, should `LocalHomeomorph.continuous_{toFun,invFun}` be renamed to `continuousOn_{toFun,invFun}`? (Also out of scope for this PR.) This would match `Diffeomorph` and the actual type of their hypotheses.

**Comment by fpvandoorn** [comment]
Yes, they should be.

**Review by sgouezel — COMMENTED** [review]
Can you merge master and fix the build (`LocalEquiv` has been renamed to `PartialEquiv`)? Thanks!

**Comment by grunweg** [comment]
I have merged master and fixed the build (for this and two more renames of mine).
awaiting-review

**Comment by sgouezel** [comment]
Can you also adapt the PR description?

**Comment by grunweg** [comment]
@sgouezel Indeed, done.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 5]
```diff
@@ -0,0 +1,246 @@
...
+import Mathlib.Geometry.Manifold.MFDeriv
+import Mathlib.Topology.IsLocalHomeomorph
+
+/-!
+# Local diffeomorphisms between smooth manifolds
+
+In this file, we define `C^n` local diffeomorphisms between manifolds.
+
+A `C^n` map `f : M → N` is a **local diffeomorphism at `x`** iff there are neighbourhoods `s`
+and `t` of `x` and `f x`, respectively such that `f` restricts to a diffeomorphism from `s` and `t`.
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:18]:
```suggestion
and `t` of `x` and `f x`, respectively such that `f` restricts to a diffeomorphism between `s` and `t`.
```

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 6]
```diff
@@ -0,0 +1,246 @@
...
+/-- Coercion of a `PartialDiffeomorph` to function.
+Note that a `PartialDiffeomorph` is not `FunLike` (like `PartialHomeomorph`),
+as `toFun` doesn't determine `invFun` outside of `target`. -/
+instance : CoeFun (PartialDiffeomorph I J M N n) fun _ => M → N :=
+  ⟨fun Φ => Φ.toFun⟩
+
+-- Add the very basic API we need.
+namespace PartialDiffeomorph
+variable (Φ : PartialDiffeomorph I J M N n) (hn : 1 ≤ n)
+
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:86]: From here on, `I` and `J` should probably be implicit, as they can be recovered from `Φ`.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 7]
```diff
@@ -0,0 +1,246 @@
...
+/-- A partial diffeomorphism is also a local homeomorphism. -/
+def toPartialHomeomorph : PartialHomeomorph M N :=
+  {
+    toPartialEquiv := Φ.toPartialEquiv
+    open_source := Φ.open_source
+    open_target := Φ.open_target
+    continuousOn_toFun := Φ.contMDiffOn_toFun.continuousOn
+    continuousOn_invFun := Φ.contMDiffOn_invFun.continuousOn
+  }
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:95]:
```suggestion
def toPartialHomeomorph : PartialHomeomorph M N where
    toPartialEquiv := Φ.toPartialEquiv
    open_source := Φ.open_source
    open_target := Φ.open_target
    continuousOn_toFun := Φ.contMDiffOn_toFun.continuousOn
    continuousOn_invFun := Φ.contMDiffOn_invFun.continuousOn
```
This is the standard syntax in mathlib, hopefully more readable.

Same thing several times below.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 8]
```diff
@@ -0,0 +1,246 @@
...
+    open_target := Φ.open_source
+    contMDiffOn_toFun := Φ.contMDiffOn_invFun
+    contMDiffOn_invFun := Φ.contMDiffOn_toFun
+  }
+
+protected theorem contMDiffOn : ContMDiffOn I J n Φ Φ.source :=
+  Φ.contMDiffOn_toFun
+
+protected theorem contMDiffOn_symm : ContMDiffOn J I n Φ.symm Φ.target :=
+  Φ.contMDiffOn_invFun
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:111]: You shouldn't need this one, as well as the other `symm` versions below: just call `Φ.symm.contMDiffOn`, which isn't longer.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 9]
```diff
@@ -0,0 +1,246 @@
...
+end PartialDiffeomorph
+end PartialDiffeomorph
+
+variable {M N}
+
+/-- `f : M → N` is called a **`C^n` local diffeomorphism at *x*** iff there exist
+  open sets `U ∋ x` and `V ∋ f x` and a diffeomorphism `Φ : U → V` such that `f = Φ` on `U`. -/
+def IsLocalDiffeomorphAt (f : M → N) (x : M) : Prop :=
+  ∃ Φ : PartialDiffeomorph I J M N n, x ∈ Φ.source ∧ EqOn f Φ Φ.source
+
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:139]: You're missing `IsLocalDiffeomorphOn`. In all the examples I can think of, when we didn't define the `On` version to start with, we have regretted it later on and we had to refactor things. So, would you agree to add it from the start? (I know it's more work, of course...)

Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:139]: I was wondering about this :-) I'll trust your collective experience, I'll add it.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:111]: Fair enough. I went by comparing with PartialHomeomorph, which has almost all lemmas also for `symm`...

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:95]: I've used two-space indentation, though. :-)

**Comment by grunweg** [comment]
Updated again; thanks for the comments.

**Comment by grunweg** [comment]
awaiting-review

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 10]
```diff
@@ -0,0 +1,272 @@
...
+  fun x ↦ mdifferentiableAt_of_isLocalDiffeomorphAt I J hn (hf x)
+
+/-- A diffeomorphism is a partial diffeomorphism. -/
+def Diffeomorph.toPartialDiffeomorph (h : Diffeomorph I J M N n) :
+    PartialDiffeomorph I J M N n where
+  toPartialEquiv := h.toHomeomorph.toPartialEquiv
+  open_source := isOpen_univ
+  open_target := isOpen_univ
+  contMDiffOn_toFun := fun x _ ↦ h.contMDiff_toFun x
+  contMDiffOn_invFun := fun _ _ ↦ h.symm.contMDiffWithinAt
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:198]: could you move this to the section on partial diffeomorphisms?

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 11]
```diff
@@ -0,0 +1,272 @@
...
+    (hf : IsLocalDiffeomorph I J n f) : IsLocalDiffeomorphOn I J n f s := fun x ↦ hf x
+
+variable {n}
+
+/-! # Basic properties of local diffeomorphisms -/
+section Basic
+variable {f : M → N} {s : Set M} {x : M}
+
+/-- A `C^n` local diffeomorphism at `x` is `C^n` differentiable at `x`. -/
+lemma contMDiffAt_of_isLocalDiffeomorphAt (hf : IsLocalDiffeomorphAt I J n f x) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:161]: This lemma should be named `IsLocalDiffeomorphAt.contMDiffAt`, to enable dot notation. Same thing for most lemmas below.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 12]
```diff
@@ -0,0 +1,272 @@
...
+/-- A `C^n` diffeomorphism is a local diffeomorphism. -/
+lemma Diffeomorph.isLocalDiffeomorph (Φ : M ≃ₘ^n⟮I, J⟯ N) : IsLocalDiffeomorph I J n Φ :=
+  fun _x ↦ ⟨Φ.toPartialDiffeomorph, by trivial, eqOn_refl Φ _⟩
+
+-- FUTURE: if useful, also add "a `PartialDiffeomorph` is a local diffeomorphism on its source"
+
+variable {I J}
+
+/-- A local diffeomorphism on `s` is a local homeomorphism on `s`. -/
+theorem LocalDiffeomorphOn.isLocalHomeomorphOn {s : Set M} (hf : IsLocalDiffeomorphOn I J n f s) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:209]:
```suggestion
theorem IsLocalDiffeomorphOn.isLocalHomeomorphOn {s : Set M} (hf : IsLocalDiffeomorphOn I J n f s) :
```
for dot notation again. Same thing below.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 13]
```diff
@@ -0,0 +1,272 @@
...
+/-- A local diffeomorphism is a local homeomorphism. -/
+theorem LocalDiffeomorph.isLocalHomeomorph (hf : IsLocalDiffeomorph I J n f) :
+    IsLocalHomeomorph f := by
+  rw [isLocalHomeomorph_iff_isLocalHomeomorphOn_univ]
+  rw [isLocalDiffeomorph_iff_isLocalDiffeomorphOn_univ] at hf
+  exact LocalDiffeomorphOn.isLocalHomeomorphOn hf
+
+/-- A local diffeomorphism is an open map. -/
+lemma LocalDiffeomorph.isOpenMap (hf : IsLocalDiffeomorph I J n f) : IsOpenMap f :=
+  (LocalDiffeomorph.isLocalHomeomorph hf).isOpenMap
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:225]: once you've done the changes to enable dot notation, this proof becomes for instance
```suggestion
  hf.isLocalHomeomorph.isOpenMap
```
Same thing below.

**Comment by grunweg** [comment]
Updated again, and made a few related golfs.
awaiting-review

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 14]
```diff
@@ -0,0 +1,267 @@
...
+
+lemma isLocalDiffeomorph_iff {f : M → N} :
+    IsLocalDiffeomorph I J n f ↔ ∀ x : M, IsLocalDiffeomorphAt I J n f x := by rfl
+
+theorem isLocalDiffeomorph_iff_isLocalDiffeomorphOn_univ {f : M → N} :
+    IsLocalDiffeomorph I J n f ↔ IsLocalDiffeomorphOn I J n f Set.univ :=
+  ⟨fun hf x ↦ hf x, fun hf x ↦ hf ⟨x, trivial⟩⟩
+
+lemma IsLocalDiffeomorph.isLocalDiffeomorphOn
+    {f : M → N} (s : Set M) (hf : IsLocalDiffeomorph I J n f) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:159]:
```suggestion
    {f : M → N} (hf : IsLocalDiffeomorph I J n f) (s : Set M) :
```
When using dot notation, the item corresponding to dot notation should come as the first explicit argument if possible, as otherwise partial applications can be a mess.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 15]
```diff
@@ -0,0 +1,267 @@
...
+  contMDiffOn_invFun : ContMDiffOn J I n invFun target
+
+/-- Coercion of a `PartialDiffeomorph` to function.
+Note that a `PartialDiffeomorph` is not `FunLike` (like `PartialHomeomorph`),
+as `toFun` doesn't determine `invFun` outside of `target`. -/
+instance : CoeFun (PartialDiffeomorph I J M N n) fun _ => M → N :=
+  ⟨fun Φ => Φ.toFun⟩
+
+/-- A diffeomorphism is a partial diffeomorphism. -/
+def Diffeomorph.toPartialDiffeomorph (h : Diffeomorph I J M N n) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:86]: `I J M N n` should be implicit in this definition, as they can be inferred from `h`.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 16]
```diff
@@ -0,0 +1,267 @@
...
+  at each `x : s`. -/
+def IsLocalDiffeomorphOn (f : M → N) (s : Set M) : Prop :=
+  ∀ x : s, IsLocalDiffeomorphAt I J n f x
+
+/-- `f : M → N` is a **`C^n` local diffeomorphism** iff it is a local diffeomorphism
+at each `x ∈ M`. -/
+def IsLocalDiffeomorph (f : M → N) : Prop :=
+  ∀ x : M, IsLocalDiffeomorphAt I J n f x
+
+lemma isLocalDiffeomorphOn_iff {f : M → N} (s : Set M) :
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:148]: I J s should all be implicit, as they can be inferred from either side of the equivalence.

Could you please double-check all statements in the file with respect to explicitness/implicitness of the variables? Thanks!

**Comment by grunweg** [comment]
awaiting-review

**Comment by grunweg** [comment]
Makes sense; I keep learning more best practices for mathlib. Thanks for explaining all these to me.

(I wonder if these rules, e.g. "make arguments implicit if they can be inferred from the others" or "a hypothesis which is used in dot notation should be the first explicit argument" could be linted automatically. Put perhaps there are too many exceptions for this to be worthwhile.)

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 17]
```diff
@@ -0,0 +1,272 @@
...
+  ⟨range f, hf.isOpen_range⟩
+
+lemma IsLocalDiffeomorph.image_coe (hf : IsLocalDiffeomorph I J n f) : hf.image.1 = range f :=
+  rfl
+
+-- TODO: this result holds more generally for (local) structomorphisms
+-- This argument implies a `LocalDiffeomorphOn f s` for `s` open is a `PartialDiffeomorph`
+
+/-- A bijective local diffeomorphism is a diffeomorphism. -/
+noncomputable def Diffeomorph.of_bijective_isLocalDiffeomorph
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:243]:
```suggestion
noncomputable def IsLocalDiffeomorph.diffeomorph_of_bijective
```

**Comment by sgouezel** [comment]
It's pretty hard to lint those since there are a lot of exceptions. It's rules that one shoud keep in mind, and break sometimes but only in a deliberate way.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 18]
```diff
@@ -0,0 +1,272 @@
...
+    right_inv := hgInverse.2
+    contMDiff_toFun := hf.contMDiff
+    contMDiff_invFun := by
+      intro y
+      let x := g y
+      obtain ⟨hx, hfx⟩ := hyp x
+      apply ((Φ x).symm.contMDiffOn.congr (aux x)).contMDiffAt (((Φ x).open_target).mem_nhds ?_)
+      have : y = (Φ x) x := ((hgInverse.2 y).congr (hfx hx)).mp rfl
+      exact this ▸ (Φ x).map_source hx
+  }
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:270]:
```suggestion
      exact this ▸ (Φ x).map_source hx }
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by grunweg** [comment]
Thanks for the review.
bors r+
